US08283354B2
Under an N2 atmosphere, a 1 M HCl solution in diethyl ether (0.54 mL, 0.54 mmol) was added dropwise to a stirring solution of 3-cyclopentyl-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)propan-1-one (240 mg, 0.54 mmol) in CH2Cl2 (20 mL). After 10 min, ether was added until a precipitate formed. The solid was collected by filtration and dried under vacuum to give 3-cyclopentyl-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)propan-1-one hydrochloride (230 mg, 88%). LC/MS: m/z 445.30 (M+H)+ at 3.08 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.26 (d, J=8.0 Hz, 1H), 8.09 (d, J=8.5 Hz, 1H), 7.78 (s, 1H), 7.50-7.46 (m, 2H), 7.09 (d, J=8.1 Hz, 1H), 7.04-7.00 (m, 1H), 4.15-4.11 (m, 4H), 3.79-3.74 (m, 4H), 2.54 (s, 3H), 2.37 (t, J=7.7 Hz, 2H), 1.82-1.74 (m, 3H), 1.60-1.45 (m, 6H), 1.12-1.08. (m, 2H)

reactant | HCl | 1 M | Cl | ClH
reactant | diethyl ether | 0.54 mmol, 0.54 mL | C(C)OCC | C4H10O
reactant | 3-cyclopentyl-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)propan-1-one | 0.54 mmol, 240 mg | C1(CCCC1)CCC(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C27H32N4O2
reactant | ether | CCOCC | C4H10O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)propan-1-one hydrochloride | 230 mg, 88% | Cl.C1(CCCC1)CCC(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | InChI=1S/C27H32N4O2.ClH/c1-19-10-12-21-23(18-19)28-26(22-8-4-5-9-24(22)32)29-27(21)31-16-14-30(15-17-31)25(33)13-11-20-6-2-3-7-20;/h4-5,8-10,12,18,20,32H,2-3,6-7,11,13-17H2,1H3;1H
